US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 4-ethylaniline to yield 2-[(4-ethylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 4-ethylaniline | C(C)C1=CC=C(N)C=C1 | C8H11N
product | 2-[(4-ethylphenyl)amino]phenylacetic acid | C(C)C1=CC=C(C=C1)NC1=C(C=CC=C1)CC(=O)O | C16H17NO2
